US08466114B2
To a stirred solution of acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(2-cyano-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester (430 mg) in THF:Methanol:water (2:1:1 mixture, 4 mL) was added lithium hydroxide (20 mg). After stirring at room temperature overnight, the reaction mixture was concentrated. The resulting residue was taken up in 50% methanol in ethyl acetate then filtered through celite bed. The filtrate was concentrated, and the residue was purified by preparative HPLC to furnish 6-[2-chloro-5-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine-2-carbonitrile (35 mg).

reactant | acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(2-cyano-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester | 430 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC=1C=CC2=C(NCC(O2)C#N)C1)COC(C)=O | C30H31ClN2O10
reactant | lithium hydroxide | 20 mg | [OH-].[Li+]
solvent | THF Methanol water | 4 mL | C1CCOC1.CO.O
product | 6-[2-chloro-5-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine-2-carbonitrile | 35 mg | ClC1=C(CC=2C=CC3=C(NCC(O3)C#N)C2)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C22H23ClN2O6
